US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-4-chloro-5-fluorobenzonitrile (0.059 g, 0.181 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.05 g, 0.181 mmol) and DIPEA (0.063 mL, 0.361 mmol) were combined in THF (2 mL) and treated with HATU (0.076 g, 0.199 mmol) at 25° C. overnight with stirring. The reaction mixture was concentrated to dryness, dissolved in DCM, washed with water, dried over MgSO4, filtered and concentrated to dryness. The residue was dissolved in DCM (2.5 mL) and treated with TFA (2.5 mL) at 25° C. for 3 days. The reaction mixture was concentrated to dryness, dissolved in DCM, washed with saturated aqueous NaHCO3, dried over MgSO4, filtered and concentrated to dryness. The resultant solid was recrystallized from EtOH, cooled in an ice bath and filtered to give 4-chloro-N-({4-chloro-3-[(2-chloro-5-cyano-3-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (0.041 g, 0.090 mmol, 49.6% yield) as a white solid. The mother liquor was concentrated to small volume, diluted with IPA, stirred for 30 minutes, and filtered to give a second batch of 4-chloro-N-({4-chloro-3-[(2-chloro-5-cyano-3-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (0.011 g, 0.024 mmol, 13.31% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.17 (br. s., 1H), 8.25 (t, J=5.56 Hz, 1H), 7.88-7.99 (m, 1H), 7.78 (s, 1H), 7.37-7.57 (m, 2H), 7.30 (s, 1H), 4.55 (d, J=5.49 Hz, 2H). LC-MS (ES−) m/z 455.10, 457.03 [M−1]. LC-MS (ES+) m/z 456.99, 459.87 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-4-chloro-5-fluorobenzonitrile | 0.181 mmol, 0.059 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1Cl)F)F | C14H8Cl2F2N2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.181 mmol, 0.05 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | DIPEA | 0.361 mmol, 0.063 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.199 mmol, 0.076 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-({4-chloro-3-[(2-chloro-5-cyano-3-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.090 mmol, 0.041 g, 49.6% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=C(C(=CC(=C1)C#N)F)Cl)F | C18H9Cl3F2N4O2
